US05731306
Step g: 2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-formyl-phenyl)-propionic acid, 2-trimethylsilanyl-ethyl ester
Dissolve 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-vinyl-phenyl)-propionic acid, 2-trimethylsilanyl-ethyl ester (2.61 g, 6.19 mmol) in methylene chloride (70 mL) and methanol (75 mL). Cool to -78° C. and treat with ozone until a blue color persists. Purge with nitrogen and add dimethylsulfide (7 mL) and pyridine (0.35 mL). Allow to warm to room temperature gradually overnight. Partition between methylene chloride (100 mL) and water (40 mL). Extract the aqueous with methylene chloride (50 mL), dry (Na2 SO4) and purify by silica gel chromatography (2.5:1 hexane/ethyl acetate) to give the title compound as a colorless viscous oil (2.65 g, 100%).

reactant | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-vinyl-phenyl)-propionic acid, 2-trimethylsilanyl-ethyl ester | 6.19 mmol, 2.61 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)OCC[Si](C)(C)C)CC1=C(C=CC=C1)C=C | C24H27NO4Si
reactant | ozone | O=[O+][O-] | O3
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 75 mL | CO | CH4O
product | 2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-formyl-phenyl)-propionic acid, 2-trimethylsilanyl-ethyl ester | 2.65 g, 100% | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)OCC[Si](C)(C)C)CC1=C(C=CC=C1)C=O | C23H25NO5Si
